US06399601B1
2-Formyl-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid
2-Formyl-4H-thieno[3,2-b]pyrrole-carboxylic acid ethyl ester (see, for example, Gale, W. W. et al., J. Org. Chem., 29: 2160-2165 (1964)) was hydrolyzed according to Procedure F (50° C. overnight; acidified aqueous phase extracted with ethyl acetate; combined organic phases dried over MgSO4, concentrated).

reactant | 2-Formyl-4H-thieno[3,2-b]pyrrole-carboxylic acid ethyl ester | C(C)OC(=O)C1(CC=2NC=CC2S1)C=O | C10H11NO3S
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Formyl-4H-thieno[3,2-b]pyrrole-5-carboxylic Acid | C(=O)C1=CC=2NC(=CC2S1)C(=O)O | C8H5NO3S
